US05215987
4-[1-[1-[Bis(4-fluorophenyl)methyl]piperazin-4-yl]-2-acetoxy-3-propanylthio]pyridine
To 4-mercaptopyridine (0.555 g, 5 mmol) in DMF (5 mL) with triethylamine (0.7 mL, 5 mmol) was added 1-(1-chloro-2-hydroxy-3-propanyl)-4-(4, 4'-difluorobenzhydryl) piperazine (1.91 g, 5 mmol) in DMF (15 mL) dropwise over 15 minutes under nitrogen. After 8 days, the reaction mixture was heated to 60° C. and stirred for 3 days. The DMF was removed in vacuo (1 mmHg, 60° C.) and to this crude material was added methylene chloride (5 mL), acetic anhydride (5 mmol, 0.47 mL) and triethylamine (5 mmol, 0.7 mL), and the mixture was stirred overnight. Silica gel flash chromatography using 10% methanol:methylene chloride gave an amber oil which was dissolved in methylene chloride (10 mL) and extracted with saturated sodium bicarbonate (2×20 mL), water (1×20 mL), saturated brine (1×20 mL) and dried over sodium sulfate. The solvent was removed in vacuo to give pure product (0.38 g, 15.3%); DCI/MS (M+1)= 498; 300 MHz 1H NMR (CDCl3)δ: 8.4(d,2H,J=1.25 Hz), 7.3 (m,4H), 7.2 (d,2H,J=1.4 Hz), 6.95 (m, 4H), 5.1 (m, 1H), 4.2 (s, 1H), 3.3 and 3.2 (d of d and d of d, 2H), 2.6 (d, 2H,J=6.1 Hz), 2.35 (m, 8H), 2.0 (s,3H).

reactant | 4-mercaptopyridine | 5 mmol, 0.555 g | SC1=CC=NC=C1 | C5H5NS
reactant | triethylamine | 5 mmol, 0.7 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(1-chloro-2-hydroxy-3-propanyl)-4-(4, 4'-difluorobenzhydryl) piperazine | 5 mmol, 1.91 g | ClCC(CN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)O | C20H23ClF2N2O
reactant | acetic anhydride | 5 mmol, 0.47 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 5 mmol, 0.7 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 4-[1-[1-[Bis(4-fluorophenyl)methyl]piperazin-4-yl]-2-acetoxy-3-propanylthio]pyridine | 0.38 g, 15.3% | FC1=CC=C(C=C1)C(N1CCN(CC1)CC(CSC1=CC=NC=C1)OC(C)=O)C1=CC=C(C=C1)F | C27H29F2N3O2S
